US04885298
As in example 18 but starting from 5 g 3-hydroxymethylideneflavanone and 2.16 g o-aminophenol. Pure 3-(N-2-hydroxyphenyl)aminomethylidene-flavanone is obtained as yellow crystals; m.p. 226°-228° C.

reactant | 3-hydroxymethylideneflavanone | 5 g | OC=C1C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C16H12O3
reactant | o-aminophenol | 2.16 g | NC1=C(C=CC=C1)O | C6H7NO
product | 3-(N-2-hydroxyphenyl)aminomethylidene-flavanone | OC1=C(C=CC=C1)NC=C1C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C22H17NO3
